US08304557B2
N-{3-[(2-{[(ethylamino)carbonyl]amino}imidazo[1,2-a]pyridin-6-yl) oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
A mixture of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (301 mg, 0.800 mmol), ethyl isocyanate (100 μL, 1.27 mmol) and pyridine (10 mL) was stirred at 50° C. for 18 hr. The mixture was concentrated under reduced pressure and ethyl acetate was added to the residue. The mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=100/0→0/100) and recrystallized from ethyl acetate-hexane to give the title compound (78.0 mg, 22%) as a pale-yellow solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.800 mmol, 301 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=C(C2)C)NC(=O)C2=CC(=NN2C)C)C1 | C20H20N6O2
reactant | ethyl isocyanate | 1.27 mmol, 100 μL | C(C)N=C=O | C3H5NO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[(2-{[(ethylamino)carbonyl]amino}imidazo[1,2-a]pyridin-6-yl) oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 78.0 mg, 22% | C(C)NC(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=C(C2)C)NC(=O)C2=CC(=NN2C)C)C1 | C23H25N7O3
